US04842639
N-Methylisoindolin-1-thione-7-sulfonamide
A mixture of 0.68 g of N-methylisoindolin-1-one-7-sulfonamide, 0.61 g of Lawesson's reagent (2,4-bis(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetane-2,4-disulfide) and 15 ml of xylene was heated to reflux under nitrogen for 24 hours. The mixture was allowed to cool, the solid products collected, and recrystallized from isopropanol (carbon) to give 0.31 g of the title compound as a yellow solid, m.p. 231°-232° C.

reactant | N-methylisoindolin-1-one-7-sulfonamide | 0.68 g | CNS(=O)(=O)C=1C=CC=C2CNC(C12)=O | C9H10N2O3S
reactant | Lawesson's reagent | 0.61 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | xylene | 15 ml | C=1(C(=CC=CC1)C)C | C8H10
product | N-Methylisoindolin-1-thione-7-sulfonamide | 0.31 g | CNS(=O)(=O)C=1C=CC=C2CNC(C12)=S | C9H10N2O2S2
